US04337256
1-Amino-2-(2-chlorophenyl)ethane (44.5 g) was dissolved in 140 ml of pyridine, and with stirring under cooling, 44.5 g of p-toluoyl chloride was added dropwise. The reaction was performed at room temperature for 3 hours. The reaction mixture was poured into ice water, and the crystals that precipitated were collected by filtration. The crystals were dissolved in benzene, washed successively with hydrochloric acid, water and saturated aqueous sodium chloride solution, and dried. The solvent was distilled off. The residue was recrystallized from benzene to afford 72 g of 1-(p-toluoylamino)-2-(2-chlorophenyl)ethane as colorless needles having a melting point of 106.0° to 108.5° C.

reactant | 1-Amino-2-(2-chlorophenyl)ethane | 44.5 g | NCCC1=C(C=CC=C1)Cl | C8H10ClN
reactant | p-toluoyl chloride | 44.5 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
product | 1-(p-toluoylamino)-2-(2-chlorophenyl)ethane | 72 g | C1(=CC=C(C=C1)C(=O)NCCC1=C(C=CC=C1)Cl)C | C16H16ClNO
